US07179820B2
{4-[(R)-2-((E)-3-Hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetic Acid Isopropyl Ester
DBU (10 μL, 0.067 mmol) was added to a solution of {4-[(R)-2-((E)-3-hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetic acid (16.6 mg, 0.045 mmol) in acetone (0.5 mL). After 5 min, 2-iodopropane (22.5 μL, 0.225 mmol) was added. After 18 h, the reaction mixture was diluted with EtOAc (25 mL) and washed sequentially with aqueous HCl (0.1 M, 10 mL), saturated aqueous NaHCO3 (10 mL) and brine (10 mL). The organic phase was dried (Na2SO4), filtered and concentrated in vacuo to afford 10.6 mg (57%) of the title compound.

reactant | DBU | 0.067 mmol, 10 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | {4-[(R)-2-((E)-3-hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetic acid | 0.045 mmol, 16.6 mg | OC(/C=C/[C@@H]1N(C(CCC1)=O)CC#CCOCC(=O)O)CC1=CC=CC=C1 | C21H25NO5
reactant | 2-iodopropane | 0.225 mmol, 22.5 μL | IC(C)C | C3H7I
solvent | acetone | 0.5 mL | CC(=O)C | C3H6O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | {4-[(R)-2-((E)-3-Hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetic Acid Isopropyl Ester | 10.6 mg, 57% | C(C)(C)OC(COCC#CCN1[C@H](CCCC1=O)\C=C\C(CC1=CC=CC=C1)O)=O | C24H31NO5
